US07579351B2
7-(1-Cyclopropylmethyl-piperidin-4-yloxy)-3,4-dihydro-2H-2,4a,5-triaza-fluoren-1-one
To a solution of 0.40 g (1.40 mmol) 7-(piperidin-4-yloxy)-3,4-dihydro-2H-2,4a,5-triaza-fluoren-1-one in 8 mL tetrahydrofuran, 30 μL (30 μg, 1.67 mmol) water, 0.16 mL (0.15 g, 2.11 mmol) cyclopropanecarboxaldehyde, 0.24 mL (0.25 g, 4.2 mmol) acetic acid and 2.1 mL (1.93 g, 2.1 mmol) sodium cyanoborohydride (1M solution in tetrahydrofuran) were added successively and the reaction mixture was stirred for 18 hours at 55° C. After cooling to room temperature the reaction was poured on 10% aqueous sodium bicarbonate solution and was extracted three times with ethyl acetate. The combined organic layers were washed with brine, dried over magnesium sulfate, filtered and evaporated. The residue was flash-chromatographed on silica gel with dichloromethane:methanol:ammonia (9:1:0.1 v/v) as eluant to give 0.19 g (40%) of the desired compound as a white solid.

reactant | 7-(piperidin-4-yloxy)-3,4-dihydro-2H-2,4a,5-triaza-fluoren-1-one | 1.40 mmol, 0.40 g | N1CCC(CC1)OC1=CN=C2N3CCNC(C3=CC2=C1)=O | C15H18N4O2
reactant | water | 1.67 mmol, 30 μL, 30 μg | O | H2O
reactant | cyclopropanecarboxaldehyde | 2.11 mmol, 0.16 mL, 0.15 g | C1(CC1)C=O | C4H6O
reactant | acetic acid | 4.2 mmol, 0.24 mL, 0.25 g | C(C)(=O)O | C2H4O2
reactant | sodium cyanoborohydride | 2.1 mmol, 1M, 2.1 mL, 1.93 g | C(#N)[BH3-].[Na+]
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | tetrahydrofuran | 8 mL | O1CCCC1 | C4H8O
product | 7-(1-Cyclopropylmethyl-piperidin-4-yloxy)-3,4-dihydro-2H-2,4a,5-triaza-fluoren-1-one | 0.19 g, 40% | C1(CC1)CN1CCC(CC1)OC1=CN=C2N3CCNC(C3=CC2=C1)=O | C19H24N4O2
